US06180627B2
Benzyl 3-{(1R/S)-1-[(tert-butoxycarbonyl)amino]-2-methoxyethyl}phenethylcarbamate
A mixture of methyl iodide (98 ml, 1.57 mmol), benzyl 3-{(1R/S)-1-[(tert-butoxycarbonyl)amino]-2-hydroxyethyl}phenethylcarbamate (preparation 119) (590 mg, 1.4 mmol), benzyltriethylammonium chloride (325 mg, 1.4 mmol) and NaOH solution (185 ml, 10M, 1.85 mmol) in dichloromethane (10 ml), was stirred at room temperature for 3 days. The reaction mixture was partitioned between dichloromethane and water, the phases separated, and the organic layer dried over MgSO4 and evaporated under reduced pressure. The residual oil was purified by column chromatography on silica gel using an elution gradient of ethyl acetate:pentane (0:100 to 50:50) to provide the title compound as a colourless oil, (289 mg, 47%).

reactant | methyl iodide | 1.57 mmol, 98 ml | CI | CH3I
reactant | benzyl 3-{(1R/S)-1-[(tert-butoxycarbonyl)amino]-2-hydroxyethyl}phenethylcarbamate | 1.4 mmol, 590 mg | C(C)(C)(C)OC(=O)NC(CO)C=1C=C(CCNC(OCC2=CC=CC=C2)=O)C=CC1 | C23H30N2O5
reactant | NaOH | 1.85 mmol, 10M, 185 ml | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 1.4 mmol, 325 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Benzyl 3-{(1R/S)-1-[(tert-butoxycarbonyl)amino]-2-methoxyethyl}phenethylcarbamate | 289 mg, 47% | C(C)(C)(C)OC(=O)NC(COC)C=1C=C(CCNC(OCC2=CC=CC=C2)=O)C=CC1 | C24H32N2O5
